US05719166
q. (+)-Piperidin-4-yl-pyridin-3-ylmethanol
Trifluoroacetic acid (100 mL) was cooled to 0° C. and added to a flask containing 1-(1,1-dimethylethyl-oxycarbonyl)piperidin-4-yl-pyridin-3-ylmethanol (20.4 g, 69.77 mmol). Vigorous gas evolution was observed. The mixture was stirred at 0° C. until judged complete by TLC. The excess trifluoroacetic acid was removed in vacuo, and the resulting residue was dissolved in water (50 mL). The aqueous solution was cooled to 0° C. and basified to pH~ 12 by addition of sodium hydroxide pellets. The product was isolated by extraction of the aqueous solution with dichloromethane (10×100 mL). The dichloromethane was evaporated to leave the title compound as an off white solid (12.06 g, 62.73 mmol, 90%). 1H NMR(d6 -DMSO): δ8.45 (m, 2H, H--C(2'), H--C(6')), 7.66 (brd, J=7.8 Hz, 1H, H--C(4')), 7.34 (dd, J=4.8, 7.8 Hz, 1H, H--C(3')), 4.29 (d, J=6.7 Hz, 1H, CHOH), 2.67 (m, 2H, eq-H--C(2)), 2.27 (m, 2H, ax-H--C(2)), 1.70 (br, 1H, NH), 1.52 (m, 1H, H--C(4)), 1.10-1.00 (m, 4H, H--C(3)).

reactant | 1-(1,1-dimethylethyl-oxycarbonyl)piperidin-4-yl-pyridin-3-ylmethanol | 69.77 mmol, 20.4 g | CC(C)(OC(=O)N1CCC(CC1)C(O)C=1C=NC=CC1)C | C16H24N2O3
solvent | Trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (+)-Piperidin-4-yl-pyridin-3-ylmethanol | N1CCC(CC1)C(O)C=1C=NC=CC1 | C11H16N2O
